US04003910
A process which comprises reacting 5-methylthio-1-phenyltetrazole and triethyloxonium fluoroborate at a temperature of between about 15° and 40° C. in anhydrous dichloromethane to yield 3-ethyl-5-methylthio-1-phenyltetrazolium fluoroborate and isolating said fluoroborate.

reactant | 5-methylthio-1-phenyltetrazole | CSC1=NN=NN1C1=CC=CC=C1 | C8H8N4S
reactant | triethyloxonium fluoroborate | F[B-](F)(F)F.C(C)[O+](CC)CC
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-ethyl-5-methylthio-1-phenyltetrazolium fluoroborate | F[B-](F)(F)F.C(C)N1N=[N+](C(=N1)SC)C1=CC=CC=C1 | InChI=1S/C10H13N4S.BF4/c1-3-13-11-10(15-2)14(12-13)9-7-5-4-6-8-9;2-1(3,4)5/h4-8H,3H2,1-2H3;/q+1;-1
